US07893056B2
(2R)-3-Cyclopentyl-2-({formyl[(phenylmethyl)oxy]amino}methyl)propanoic acid (0.220 g, 0.72 mmol), 2-chloro-5-fluoro-6-(tetrahydro-2H-pyran-4-ylamino)-4(1H)-pyrimidinone hydrazone (0.199 g), NMM (0.42 mL, 3.80 mmol), HOAt (0.103 g, 0.76 mmol), EDC (0.146 g, 0.76 mmol) were dissolved in DMF (5 mL). Reaction left to stir overnight. Added ether, washed with water, back extracted aqueous layers with ether, dried (Na2SO4) and concentrated in vacuo to provide [(2R)-3-{2-[2-chloro-5-fluoro-6-(tetrahydro-2H-pyran-4-ylamino)-4-pyrimidinyl]hydrazino}-2-(cyclopentylmethyl)-3-oxopropyl][(phenylmethyl)oxy]formamide as a dark brown solid (0.321 g). LCMS: (M+H)+=549.2.

reactant | (2R)-3-Cyclopentyl-2-({formyl[(phenylmethyl)oxy]amino}methyl)propanoic acid | 0.72 mmol, 0.220 g | C1(CCCC1)C[C@@H](C(=O)O)CN(OCC1=CC=CC=C1)C=O | C17H23NO4
reactant | 2-chloro-5-fluoro-6-(tetrahydro-2H-pyran-4-ylamino)-4(1H)-pyrimidinone hydrazone | 0.199 g | ClC=1NC(=C(C(N1)=NN)F)NC1CCOCC1 | C9H13ClFN5O
reactant | NMM | 3.80 mmol, 0.42 mL | CN1CCOCC1 | C5H11NO
reactant | HOAt | 0.76 mmol, 0.103 g | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | EDC | 0.76 mmol, 0.146 g
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | [(2R)-3-{2-[2-chloro-5-fluoro-6-(tetrahydro-2H-pyran-4-ylamino)-4-pyrimidinyl]hydrazino}-2-(cyclopentylmethyl)-3-oxopropyl][(phenylmethyl)oxy]formamide | 0.321 g | ClC1=NC(=C(C(=N1)NNC([C@@H](CN(C=O)OCC1=CC=CC=C1)CC1CCCC1)=O)F)NC1CCOCC1 | C26H34ClFN6O4
